US08138347B2
To a solution of 4-choro-6-bromoquinoline (726 mg, 3 mmol) in 3 mL of 1-methyl-2-pyrrolidinone was added piperidine (510 mg, 6 mmol). The reaction was heated to 150° C. for 5 h. The solvents were removed in vacuo at 100° C. and the residue dissolved in methylene chloride and washed with water. The methylene chloride was dried with sodium sulfate and concentrated. The residue was triturated with hexane and the solid filtered off to give 6-bromo-4-(1-piperidinyl) quinoline (877 mg, 73%).

reactant | 4-choro-6-bromoquinoline | 3 mmol, 726 mg | ClC1=CC=NC2=CC=C(C=C12)Br | C9H5BrClN
reactant | piperidine | 6 mmol, 510 mg | N1CCCCC1 | C5H11N
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 6-bromo-4-(1-piperidinyl) quinoline | 877 mg, 73% | BrC=1C=C2C(=CC=NC2=CC1)N1CCCCC1 | C14H15BrN2
